US06265611B1
N-(3,4-dihydroxyphenethyl)-2-(3,4-dihydroxyphenyl)-2-hydroxyacetamide
2-(3,4-Dihydroxyphenyl)-2-hydroxyacetic acid (300 mg, 1.63 mmol) and N-hydroxysuccinimide (188 mg, 1.63 mmol) were dissolved in 1,4-dioxane (20 ml) under nitrogen, and N,N′-dicyclohexylcarbodiimide (336 mg, 1.63 mmol) was added to the mixture at room temperature, which was stirred at this temperature for 16 h. The by-product which precipitated out was filtered off, and the filtrate was added to a solution of 2-(3,4-dihydroxyphenyl)ethylamine hydrochloride (309 mg, 1.63 mmol) in water (20 ml). Sodium hydrogencarbonate (151 mg, 1.8 mmol) was also added, and the reaction mixture was stirred under nitrogen at 50° C. for 1.5 h. The mixture was rendered acidic using 5% strength hydrochloric acid and extracted 3 times with ethyl acetate (a total of 90 ml). The organic phase was washed with saturated NaCl solution, dried over Na2SO4 and filtered, and the filtrate was evaporated under reduced pressure. The product was purified by chromatography on silica gel using the eluent ethyl acetate. The yield was 266 mg of a colorless syrup (51% of theory based on the acid used).

reactant | 2-(3,4-Dihydroxyphenyl)-2-hydroxyacetic acid | 1.63 mmol, 300 mg | OC=1C=C(C=CC1O)C(C(=O)O)O | C8H8O5
reactant | N-hydroxysuccinimide | 1.63 mmol, 188 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodiimide | 1.63 mmol, 336 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(3,4-dihydroxyphenyl)ethylamine hydrochloride | 1.63 mmol, 309 mg | Cl.OC=1C=C(C=CC1O)CCN
reactant | Sodium hydrogencarbonate | 1.8 mmol, 151 mg | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-(3,4-dihydroxyphenethyl)-2-(3,4-dihydroxyphenyl)-2-hydroxyacetamide | OC=1C=C(CCNC(C(O)C2=CC(=C(C=C2)O)O)=O)C=CC1O | C16H17NO6
